US08957069B2
A solution of water (100 mL) containing sodium nitrite (61.8 g, 895 mmol) was added dropwise to a suspension of 6N hydrochloric acid (1.74 L) containing p-nitroaniline (129 g, 933 mmol) under ice-cooling condition, with the inner temperature thereof being maintained at 10° C. or lower. The reaction solution was stirred under ice-cooling condition for 1 hour, and after that, a solution of acetic acid (1.74 L) containing 7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran (crude, calculated as 746 mmol) synthesized in Reference Example 93 was added dropwise thereto. The obtained mixture was stirred at 45° C. for 4 hours. After cooled to room temperature, the precipitated solid was collected by filtration, and it was washed with 50% acetic acid aqueous solution (500 mL), water (500 mL) and cold methanol (500 mL) to give 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-2-(4-nitrophenyl)diazene as wet crystal. Sodium hydrosulfite (519 g, 2.98 mol) was added to a suspension of methanol (1.74 L)/water (580 mL) containing the obtained wet crystal (calculated as 746 mmol), and the mixture was refluxed for 2 hours. After cooled to room temperature, the precipitate was filtered. Saturated saline was added to the filtrate, and extraction was performed using ethyl acetate (1.5 L, 1 L). The organic layer was washed with saturated saline (1 L) and dried using anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate 85:15-70:30). The obtained crude product was dissolved in ethyl acetate (1.74 L), and 4N hydrochloric acid/ethyl acetate (100 mL) was added thereto for conversion into hydrochloride salt. The obtained white solid was collected by filtration, and it was washed with ethyl acetate to give 87.7 g of the title compound as a white solid (yield: 46%).

reactant | sodium nitrite | 895 mmol, 61.8 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6N, 1.74 L | Cl | ClH
reactant | p-nitroaniline | 933 mmol, 129 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran | 746 mmol | COC1=C(C=C(C=2CC(OC21)(C)C)C)C | C13H18O2
solvent | acetic acid | 1.74 L | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-2-(4-nitrophenyl)diazene | COC1=C(C(=C(C=2CC(OC21)(C)C)C)N=NC2=CC=C(C=C2)[N+](=O)[O-])C | C19H21N3O4
